US04767768
Hydroxylamine hydrochloride (100 mg) was added to a solution of 3-ethyl-4-nitro-2-pentenal (100 mg) in chloroform (3 ml) and methanol (2 ml) with stirring. The resulting mixture was stirred at room temperature overnight. The reaction mixture was evaporated to dryness and the residue was diluted with water and extracted with ethyl acetate (50 ml×2). The combined extracts were washed successively with water, 5% sodium bicarbonate and brine, and then dried over magnesium sulfate. Removal of the solvent gave an oil which was purified by a preparative thin layer chromatography (5% methanol-chloroform) to give 3-ethyl-4-nitro-2-pentenal oxime (80 mg).

reactant | Hydroxylamine hydrochloride | 100 mg | Cl.NO
reactant | 3-ethyl-4-nitro-2-pentenal | 100 mg | C(C)C(=CC=O)C(C)[N+](=O)[O-] | C7H11NO3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 ml | CO | CH4O
product | 3-ethyl-4-nitro-2-pentenal oxime | 80 mg | C(C)C(=CC=NO)C(C)[N+](=O)[O-] | C7H12N2O3
